US04806682
Trimethyl sulfonium 5-(2-chloro-4-trifluoro-methylphenoxy)-2-nitrobenzoate was prepared by adding an excess of propylene oxide to a solution of trimethyl sulfonium iodide and one equivalent of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro benzoic acid in aqueous tetrahydrofuran at 35° C. After 2 hours, the volatile organic compounds were removed under reduced pressure. The remaining aqueous phase was shaken with ether, separated and the water was then removed under reduced pressure to yield trimethyl sulfonium 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate. It was also prepared by regenerating Amberlite 200 cation exchange resin with about 10 equivalents of trimethylsulfonium iodide (Amberlite 200 is a macroreticular, high capacity, strongly acidic cation exchange resin having sulfonic acid functionality, prepared from a styrene divinylbenzene copolymer). Thereafter the column containing the regenerated resin was washed with deionized water and a solution of sodium-5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate was then passed down the column to yield trimethylsulfonium 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitrobenzoate.

reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | trimethyl sulfonium iodide | [I-].C[S+](C)C
reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro benzoic acid | one equivalent | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trimethyl sulfonium 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.C[S+](C)C | InChI=1S/C14H7ClF3NO5.C3H9S/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;1-4(2)3/h1-6H,(H,20,21);1-3H3/q;+1/p-1
